US07417169B2
4-Bromo-2-isopropylphenol
To a mixture of 2-isopropylphenol (3.0 g), acetic acid (30 mL) and dimethylsulfoxide (15 mL) was added dropwise 48% hydrobromic acid (15 mL) at room temperature. The mixture was stirred for 30 minutes, poured into water, and extracted with ethyl acetate. The organic layer was washed successively with water, a saturated aqueous solution of sodium bicarbonate and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (4.62 g).

reactant | 2-isopropylphenol | 3.0 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | hydrobromic acid | 15 mL | Br | BrH
solvent | water | O | H2O
product | 4-Bromo-2-isopropylphenol | 4.62 g | BrC1=CC(=C(C=C1)O)C(C)C | C9H11BrO
